US04367238
Ozone gas was introduced into a solution of 2-(o-tolylthio)-6-(1-propenyl)phenol (24.3 g) in a mixture of ethyl acetate (200 ml) and acetic acid (5 ml) at 3° C. for 1.5 hours. The excess of ozone was removed by air-bubbling and further decomposed with aqueous sodium hydrogen sulfite. The resultant organic layer was separated, washed with aqueous sodium hydrogen sulfite and water in turn, dried and then evaporated under reduced pressure. The oily residue was crystallized with ethanol to give yellow needles of 2-hydroxy-3-(o-tolylthio)benzaldehyde (12.2 g), mp. 42°-43° C.

reactant | Ozone | O=[O+][O-] | O3
reactant | 2-(o-tolylthio)-6-(1-propenyl)phenol | 24.3 g | C1(=C(C=CC=C1)SC1=C(C(=CC=C1)C=CC)O)C | C16H16OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxy-3-(o-tolylthio)benzaldehyde | 12.2 g | OC1=C(C=O)C=CC=C1SC1=C(C=CC=C1)C | C14H12O2S
